US07977327B2
7-[(3S,4S)-3-(tert-Butoxycarbonyl)amino-4-methylpyrrolidin-1-yl]-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (Comparative Compound C)
A 1 mol/L aqueous sodium hydroxide solution (5 mL, 5 mmol) was added under cooling with ice to ethyl 7-[(3S,4S)-3-(tert-butoxycarbonyl)amino-4-methylpyrrolidin-1-yl]-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxoquinoline-3-carboxylate (957 mg, 1.96 mmol) in ethanol (10 mL), and the mixture was stirred at room temperature for 3 hours. The resultant mixture was neutralized with 1 mol/L hydrochloric acid under cooling with ice, and ethanol was removed under reduced pressure. Subsequently, 1 mol/L hydrochloric acid was added thereto, followed by extraction with ethyl acetate (100 mL×3). The ethyl acetate layer was washed by saturated brine (100 mL), and dried over anhydrous sodium sulfate. After filtration, the filtrate was concentrated under reduced pressure. The obtained residue was dissolved in concentrated hydrochloric acid (5 mL), and the solution was washed by chloroform (50 mL). The pH of the resultant mixture was adjusted to 7.8 with an aqueous sodium hydroxide solution, followed by extraction with chloroform (100 mL×3) and drying over anhydrous sodium sulfate. After filtration, the filtrate was concentrated under reduced pressure, and the obtained residue was recrystallized from ethanol, to thereby yield the title compound as pale yellow crystals (420 mg, 58.2%).

reactant | sodium hydroxide | 5 mmol, 1 mol/L, 5 mL | [OH-].[Na+]
reactant | ethyl 7-[(3S,4S)-3-(tert-butoxycarbonyl)amino-4-methylpyrrolidin-1-yl]-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxoquinoline-3-carboxylate | 1.96 mmol, 957 mg | C(C)(C)(C)OC(=O)N[C@@H]1CN(C[C@@H]1C)C1=C(C=C2C(C(=CN(C2=C1)C1CC1)C(=O)OCC)=O)F | C25H32FN3O5
reactant | hydrochloric acid | 1 mol/L | Cl | ClH
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 7-[(3S,4S)-3-(tert-Butoxycarbonyl)amino-4-methylpyrrolidin-1-yl]-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 420 mg, 58.2% | C(C)(C)(C)OC(=O)N[C@@H]1CN(C[C@@H]1C)C1=C(C=C2C(C(=CN(C2=C1)C1CC1)C(=O)O)=O)F | C23H28FN3O5
